US04119106
To a solution of 20.78 g (0.095 mole) of citronellyl chloroformate in 150 ml of tetrahydrofuran was added under a nitrogen atmosphere with cooling and stirring an aliquot (215 ml, 0.101 mole) of the solution of potassium isopropenolate described in EXAMPLE XVIII. The reaction temperature did not rise above 10° C. during addition. After addition was complete the cooling bath was removed and the mixture was poured into 400 ml of diethyl ether, and washed successively with one 300-ml portion and three 400-ml portions of water. The ether layer was separated and dried over magnesium sulfate. Removal of solvent under reduced pressure left a red, slightly viscous residue weighing 20.83 g, which on distillation through a rotary thin-film molecular still at 75° C. skin temperature and 0.10-0.13 mm pressure yielded 12.97 g (56.8%) of citronellyl isopropenyl carbonate as a colorless liquid. The identity of the compound was confirmed by spectral data.

reactant | citronellyl chloroformate | 0.095 mole, 20.78 g | ClC(=O)OCCC(C)CCC=C(C)C | C11H19ClO2
reactant | potassium isopropenolate | C(=C)(C)[O-].[K+]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | citronellyl isopropenyl carbonate | 12.97 g, 56.8% | C(OCCC(C)CCC=C(C)C)(OC(=C)C)=O | C14H24O3
